US05677310
A mixture of 5-(3-chloropropoxy)-2,3-dihydro-1,4-benzodioxin (0.017 mol), N-2-pyrimidinyl-1,3-propanediamine (0.026 mol) and calcium oxide (5 g) in tetrahydrofuran (150 ml) was stirred overnight at 160° C. (pressure vessel). The mixture was cooled, filtered and the filtrate was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /(CH3OH/NH3)95/5). The pure fractions were collected and the solvent was evaporated, yielding 2.66 g N-[3-[(2,3-dihydro-1,4-benzodioxin-5-yl)oxy]propyl]-N'-2-pyrimidinyl-1,3-propanediamine ethanedioate(1:1) (36.0%); mp. 200.2° C. (comp. 8)

reactant | 5-(3-chloropropoxy)-2,3-dihydro-1,4-benzodioxin | 0.017 mol | ClCCCOC1=CC=CC=2OCCOC21 | C11H13ClO3
reactant | N-2-pyrimidinyl-1,3-propanediamine | 0.026 mol | N1=C(N=CC=C1)NCCCN | C7H12N4
reactant | calcium oxide | 5 g | [O-2].[Ca+2]
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | N-[3-[(2,3-dihydro-1,4-benzodioxin-5-yl)oxy]propyl]-N'-2-pyrimidinyl-1,3-propanediamine ethanedioate | 2.66 g, 36.0% | C(C(=O)O)(=O)O.O1CCOC2=C1C=CC=C2OCCCNCCCNC2=NC=CC=N2 | InChI=1S/C18H24N4O3.C2H2O4/c1-5-15(17-16(6-1)24-13-14-25-17)23-12-4-8-19-7-2-9-20-18-21-10-3-11-22-18;3-1(4)2(5)6/h1,3,5-6,10-11,19H,2,4,7-9,12-14H2,(H,20,21,22);(H,3,4)(H,5,6)
